US08133886B2
Step 1.2: 6-Benzyloxy-benzooxazole-3-carboxylic acid (4-chloro-3-trifluoromethyl-phenyl)-amide
To a solution of 1.4 g (3.2 mMol) of 1-(4-benzyloxy-2-hydroxy-phenyl)-3-(4-chloro-3-trifluoromethyl-phenyl)-urea in 420 ml DMEU, 700 mg NaH (55% in oil; 16 mMol) are given. After 15 min, 23 ml of CH2Br2 are added and stirring is continued for 6 h. Then 1 ml of formic acid is added and the resulting mixture is evaporated in HV. The residue is dissolved in EtOAc and water. The separated aq. phase is extracted twice with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; hexane/CH2Cl2 1:1→CH2Cl2) gives the title compound: m.p.: 135-136° C.

reactant | 1-(4-benzyloxy-2-hydroxy-phenyl)-3-(4-chloro-3-trifluoromethyl-phenyl)-urea | 3.2 mMol, 1.4 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)O | C21H16ClF3N2O3
reactant | NaH | 16 mMol, 700 mg | [H-].[Na+]
reactant | CH2Br2 | 23 ml | C(Br)Br | CH2Br2
reactant | formic acid | 1 ml | C(=O)O | CH2O2
solvent | DMEU | 420 ml | CN1CCN(C1=O)C | C5H10N2O
product | 6-Benzyloxy-benzooxazole-3-carboxylic acid (4-chloro-3-trifluoromethyl-phenyl)-amide | ClC1=C(C=C(C=C1)NC(=O)N1COC2=C1C=CC(=C2)OCC2=CC=CC=C2)C(F)(F)F | C22H16ClF3N2O3
